US06875765B2
Step 1: (2-Benzyloxy-quinolin-5-yl)-acetic acid methyl ester
(2-Chloroquinolin-5-yl)-acetic acid methyl ester (0.198 g, 1.01 mmol), whose synthesis was previously described, and benzyl alcohol (0.722 g, 6.67 mmol) were dissolved in anhydrous THF, and NaH (60% in oil, 0.244 g, 6.10 mmol) was added. The reaction was stirred at room temperature overnight. The solution was poured into ethyl acetate and water and the layers were separated. The organic layer was washed twice with water, then washed with brine, dried over magnesium sulfate, filtered and rotovapped to give the excess starting benzyl alcohol. The basic aqueous layer was acidified with 5% citric acid solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and rotovapped. The crude product was dissolved in ether and treated with freshly prepared diazomethane (14 mmol) in ether. The diazomethane solution was treated with acetic acid (1 mL). The solvent was stripped off, toluene was added and stripped off. Traces of toluene were removed by azeotroping with acetonitrile. (2-Benzyloxy-quinolin-5-yl)-acetic acid methy ester was used without further purification. MS m/z 308 (M+1).

reactant | (2-Chloroquinolin-5-yl)-acetic acid methyl ester | 1.01 mmol, 0.198 g | COC(CC1=C2C=CC(=NC2=CC=C1)Cl)=O | C12H10ClNO2
reactant | benzyl alcohol | 6.67 mmol, 0.722 g | C(C1=CC=CC=C1)O | C7H8O
reactant | NaH | 6.10 mmol, 0.244 g | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | diazomethane | 14 mmol | [N+](=[N-])=C | CH2N2
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-Benzyloxy-quinolin-5-yl)-acetic acid methyl ester | COC(CC1=C2C=CC(=NC2=CC=C1)OCC1=CC=CC=C1)=O | C19H17NO3
